US03940394
[4-Chloro-6-(3,4-dichlorobenzylamino)-2-pyrimidinylthio] acetic acid
A stirred mixture of 8.0 g of (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester, 5.3 g of 3,4-dichlorobenzylamine and 3.2 g of sodium carbonate in 200 ml. of ethanol was heated under reflux for 6 hr. The reaction mixture was filtered and water was added to the filtrate to the cloudy point. The mixture was cooled in ice and the resulting precipitate which formed was removed by filtration and recrystallized from 70% aqueous ethanol. The product amounted to 4.8 g, mp. 64°-69°C.

reactant | (4,6-dichloro-2-pyrimidinylthio)acetic acid ethyl ester | 8.0 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | 3,4-dichlorobenzylamine | 5.3 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | sodium carbonate | 3.2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [4-Chloro-6-(3,4-dichlorobenzylamino)-2-pyrimidinylthio] acetic acid | ClC1=NC(=NC(=C1)NCC1=CC(=C(C=C1)Cl)Cl)SCC(=O)O | C13H10Cl3N3O2S
